US07521461B2
Methyl 2-[(4-{2-[heptyl(2-phenylethyl)amino]-2-oxoethyl}benzyl)oxy]benzoate (0.229 g, 0.457 mmol) was dissolved in EtOH (5 ml, 95%) and potassium hydroxide (0.051 g, 0.913 mmol) was added. The reaction was performed in an single node microwave oven (7 min, 150° C.). Work-up was by removing the solvent by evaporation and addition of HCl (2 ml, 1 M). The water-phase was extracted with two portions of EtOAc (20 ml) and the organic phase was dried (MgSO4) and the solvent was removed by evaporation. The crude was purified by flash chromatography (started with isocratic DCM 100% and then the MeOH concentration was increased from 0.5% to 20%, (silica gel 60 0.004-0.063 mm). The product containing fractions were pooled and the EtOAc was removed by evaporation. The product was not pure and was therefore purified by preparative HPLC (started with isocratic acetonitrile/buffer 60/40 and then the acetonitrile concentration was increased to 100%, the buffer was a mixture of acetonitrile/water 10/90 and ammonium acetate (0.1 M, column KR-100-7-C8, 50 mm×250 mm, flow 40 ml/min). The product containing fractions were pooled and the acetonitrile was removed by evaporation. EtOAc (10 ml) was added and the organic phase was washed with two portions of brine and dried (MgSO4). The solvent was removed by evaporation to give 0.025 g of 2-[(4-{2-[heptyl(2-phenylethyl)amino]-2-oxoethyl}benzyl)oxy]benzoic acid (yield 11.2%).

reactant | Methyl 2-[(4-{2-[heptyl(2-phenylethyl)amino]-2-oxoethyl}benzyl)oxy]benzoate | 0.457 mmol, 0.229 g | C(CCCCCC)N(C(CC1=CC=C(COC2=C(C(=O)OC)C=CC=C2)C=C1)=O)CCC1=CC=CC=C1 | C32H39NO4
reactant | potassium hydroxide | 0.913 mmol, 0.051 g | [OH-].[K+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | 2-[(4-{2-[heptyl(2-phenylethyl)amino]-2-oxoethyl}benzyl)oxy]benzoic acid | 0.025 g, yield 11.2% | C(CCCCCC)N(C(CC1=CC=C(COC2=C(C(=O)O)C=CC=C2)C=C1)=O)CCC1=CC=CC=C1 | C31H37NO4
